US06919356B2
Part C: Preparation of trans-{1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidin-3-yl}-methanol
A solution of 1-[2-(4-Fluorophenyl)ethyl]-4-methyl-2,6-dioxopiperidine-3-carboxylic acid ethyl ester (2.0 g, 6.22 mmol) in tetrahydrofuran (10 mL) was added over 5 minutes to an ice-cold solution of lithium aluminum hydride (1.0 M in tetrahydrofuran, 28 mL, 28 mmol). The resulting solution was stirred at room temperature for 17 hours, then was quenched by the slow dropwise addition of water (1.06 mL), 15% aqueous sodium hydroxide (1.06 mL), and water (3.18 mL). The resulting suspension was stirred for 20 minutes, then filtered and the solid washed with ethyl acetate. The combined filtrates were concentrated under vacuum to provide an oil which slowly crystallized. This material was purified by flash chromatography, eluting with 4% methanol in dichloromethane containing 0.4% aqueous ammonium hydroxide, to provide a pale yellow solid (724 mg, 46%) as a mixture of cis- and trans isomers. Pure trans isomer was isolated by further chromatography. 1H NMR (300 MHz, CDCl3) δ7.16 (m, 2H), 6.98 (t, J=9 Hz, 2H), 3.83 (dd, J=11, 3 Hz, 1H), 3.54 (dd, J=11, 7 Hz, 1H), 3.18 (dm, J=10 Hz, 1H), 2.95 (dm, J=12 Hz, 1H), 2.85 (m, 2H), 2.61 (m, 2H), 2.12 (dt, J=11, 3 Hz, 1H), 2.01 (t, J=11 Hz, 1H), 1.77 (m, 1H), 1.6-1.3 (m, 3H), 1.00 (d, J=6 Hz, 3H). Mass spec (ES+) m/z 252.1 (M+H+, 100%).

reactant | 1-[2-(4-Fluorophenyl)ethyl]-4-methyl-2,6-dioxopiperidine-3-carboxylic acid ethyl ester | 6.22 mmol, 2.0 g | C(C)OC(=O)C1C(N(C(CC1C)=O)CCC1=CC=C(C=C1)F)=O | C17H20FNO4
reactant | lithium aluminum hydride | 28 mmol, 1.0 M, 28 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | trans-{1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidin-3-yl}-methanol | 724 mg, 46% | FC1=CC=C(C=C1)CCN1C[C@H]([C@@H](CC1)C)CO | C15H22FNO
